US07759401B2
A mixture of 1-bromododecane (12.4 g, 50 mmol) and 1-methylimidazole (4.1 μg, 50 mmol) was stirred at 75° C. for 24 h. The viscous liquid was washed with ethyl acetate several times and heated at 85° C. under vacuum for 24 h to produce waxy 1-dodecyl-3-methylimidazolium bromide (15.64 g, 83%). 1H NMR (400 MHz, CDCl3): 10.61 (1H, m, N—CH—N), 7.25-7.34 (2H, s, N—CH═CH—N), 4.32-4.30 (2H, t, N—CH2(CH2)10CH3), 4.12 (3H, s, N—CH3), 1.91-1.90 (2H, m, N—CH2(CH2)10CH3), 1.32-1.23 (18H, m, N—CH2(CH2)10CH3), 0.87-0.84 (3H, t, N—CH2(CH2)10CH3). Elemental analysis: Calculated C16H32BrN2: C, 57.28%, H, 9.71%, N, 8.43%; Found: C, 56.62%, H, 9.49%, N, 8.35%. mp: 39.7° C.

reactant | 1-bromododecane | 50 mmol, 12.4 g | BrCCCCCCCCCCCC | C12H25Br
reactant | 1-methylimidazole | 50 mmol, 4.1 μg | CN1C=NC=C1 | C4H6N2
product | 1-dodecyl-3-methylimidazolium bromide | 15.64 g, 83% | [Br-].C(CCCCCCCCCCC)[N+]1=CN(C=C1)C | InChI=1S/C16H31N2.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-18-15-14-17(2)16-18;/h14-16H,3-13H2,1-2H3;1H/q+1;/p-1
